US09427475B2
Step E: N,N-bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]-6-[(2,5-dioxopyrrolidin-1-yl)oxy]-6-oxohexanamide
To a stirred solution of 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoic acid (160 mg, 0.250 mmol) in DMF (3.0 mL) at 0° C. was added a solution of TSTU (94 mg, 0.313 mmol) in DMF (2 mL) and, 5 min later, DIPEA (53 μL, 0.300 mmol). After stirring for 1.5 h at 0° C., the mixture was added dropwise to Et2O (30 mL) in a centrifuge tube. After centrifuged for 30 min at 3500 rpm, the supernatant was decanted and the solid residue was dissolved in H2O, which was freeze-dried to give the title product. UPLC Method B: m/e=737 [M+1]; Rt=2.19 min.

reactant | 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoic acid | 0.250 mmol, 160 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(C(CCCCC(=O)O)=O)CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O | C26H45N3O15
reactant | TSTU | 0.313 mmol, 94 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 0.300 mmol, 53 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Et2O | 30 mL | CCOCC | C4H10O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N,N-bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]-6-[(2,5-dioxopyrrolidin-1-yl)oxy]-6-oxohexanamide | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(C(CCCCC(=O)ON1C(CCC1=O)=O)=O)CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O | C30H48N4O17
